US07399759B2
3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-3-pyridyl]propionic acid
tert-Butyl 3-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-3-pyridyl]propanoate (0.21 g, 0.56 mmol) was dissolved in trifluoroacetic acid (5 ml), and the mixture was stirred at room temperature for 0.5 hr. Diisopropyl ether was added to the reaction mixture to give crystals, which were recrystallized from ethanol to give the titled compound (0.12 g, 68%) as white crystals.

reactant | tert-Butyl 3-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-3-pyridyl]propanoate | 0.56 mmol, 0.21 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=C(C=N2)CCC(=O)OC(C)(C)C | C20H20N2O3S
reactant | Diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-3-pyridyl]propionic acid | 0.12 g, 68% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=C(C=N2)CCC(=O)O | C16H12N2O3S
